US05891889
Step B: 2-[3-(4-cyanobenzyl)-3H-imidazol-1-yl]-N-benzyl-N-(1-phenylpiperidin-4-yl)acetamide hydrochloride
Benzyl(1-phenylpiperidin-4-yl)amine (50 mg, 0.188 mmol), lithium [3-(4-cyanobenzyl)-3H-imidazol-4-yl]acetate (51 mg, 0.206 mmol), 1-hydroxybenzotriazole hydrate (38 mg, 0.28 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (72 mg, 0.38 mmol), and N,N-diisopropylethylamine (82 μL, 0.47 mmol) were added to degassed DMF (2 mL) and the mixture was stirred for 18 hrs at room temperature then concentrated in vacuo. The residue was added to sat. NaHCO3 (aq) (5 mL) and extracted with dichloromethane (3×3 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was chromatographed on silica gel, eluting with dichloromethane--4% methanol--0.01% NH4OH to give the product as a free base. This was lyophilized from HCl (aq)--acetonitrile to give the title compound as a white solid.

reactant | Benzyl(1-phenylpiperidin-4-yl)amine | 0.188 mmol, 50 mg | C(C1=CC=CC=C1)NC1CCN(CC1)C1=CC=CC=C1 | C18H22N2
reactant | lithium [3-(4-cyanobenzyl)-3H-imidazol-4-yl]acetate | 0.206 mmol, 51 mg | C(#N)C1=CC=C(CN2C=NC=C2CC(=O)[O-])C=C1.[Li+]
reactant | 1-hydroxybenzotriazole hydrate | 0.28 mmol, 38 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.38 mmol, 72 mg | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.47 mmol, 82 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HCl | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[3-(4-cyanobenzyl)-3H-imidazol-1-yl]-N-benzyl-N-(1-phenylpiperidin-4-yl)acetamide hydrochloride | Cl.C(#N)C1=CC=C(CN2CN(C=C2)CC(=O)N(C2CCN(CC2)C2=CC=CC=C2)CC2=CC=CC=C2)C=C1 | InChI=1S/C31H33N5O.ClH/c32-21-26-11-13-28(14-12-26)22-33-19-20-34(25-33)24-31(37)36(23-27-7-3-1-4-8-27)30-15-17-35(18-16-30)29-9-5-2-6-10-29;/h1-14,19-20,30H,15-18,22-25H2;1H
